US07244730B2
(Step 2) 6-Acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-3-one
Chloroacetyl chloride (0.14 ml, 1.76 mmol) was added at room temperature to a solution of the 1-[3-amino-5-(tert-butyl)-4-hydroxyphenyl]-1-ethanone (300 mg, 1.45 mmol) in a methylene chloride (3 ml)-saturated aqueous sodium hydrogencarbonate (3 ml) mixed solvent, and the resultant mixture was stirred for 30 minutes. After adding ethyl acetate to the reaction mixture for separation, the organic layer was washed with brine. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was dissolved in dimethylformamide (6 ml), potassium carbonate (401 mg, 2.90 mmol) was added and the mixture was stirred at 70° C. for 7 hours under a nitrogen atmosphere. The solvent was distilled off under reduced pressure, and then ethyl acetate was added to the residue and the mixture was washed with water and brine in that order. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was subjected to silica gel chromatography (Wakogel-C200,7 g), and the fraction containing the target compound was obtained from the ethyl acetate-toluene (1:9˜1:6) fractions and crystallized from diethyl ether-diisopropyl ether to yield the title compound (102 mg, 28.5% yield) as yellow ochre crystals.

reactant | Chloroacetyl chloride | 1.76 mmol, 0.14 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-[3-amino-5-(tert-butyl)-4-hydroxyphenyl]-1-ethanone | 1.45 mmol, 300 mg | NC=1C=C(C=C(C1O)C(C)(C)C)C(C)=O | C12H17NO2
reactant | sodium hydrogencarbonate | 3 ml | C(O)([O-])=O.[Na+]
reactant | potassium carbonate | 2.90 mmol, 401 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-Acetyl-8-(tert-butyl)-3,4-dihydro-2H-1,4-benzoxazin-3-one | 102 mg, 28.5% yield | C(C)(=O)C=1C=C(C2=C(NC(CO2)=O)C1)C(C)(C)C | C14H17NO3
